US09193741B2
Synthesis of 1-(4-(5-amino-2-(4-bromophenethyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone
This compound was prepared from 2-(4-bromophenethyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidin-5-amine using 4-chlorophenoxyacetic acid in a yield of 29%, according to the procedure for the synthesis of example 50.

reactant | 2-(4-bromophenethyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidin-5-amine | BrC1=CC=C(CCC=2SC=3N=C(N=C(C3N2)N2CCNCC2)N)C=C1 | C17H19BrN6S
reactant | 4-chlorophenoxyacetic acid | ClC1=CC=C(OCC(=O)O)C=C1 | C8H7ClO3
product | 1-(4-(5-amino-2-(4-bromophenethyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone | yield of 29% | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)Br)N2CCN(CC2)C(COC2=CC=C(C=C2)Cl)=O | C25H24BrClN6O2S
